.SUBCKT inverter_own IN OUT VDD GND

*MOSFET	Drain Gate Source Body Type

Mp1 OUT IN VDD VDD CMOSP W={width_P} L={LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

Mn1 OUT IN GND GND CMOSN W={width_N} L={LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

.ENDS inverter_own
